US05516774
10,11-Dihydro-10-(4-amino-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 3.24 g of 10,11-dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 0.35 g of 10% Pd/c and 0.60 g of anhydrous hydrazine in 100 ml of absolute ethyl alcohol and heated on a steam bath for 1 hour. The hot reaction mixture is filtered through diatomaceous earth and the filtrate evaporated in vacuo to a residue which is partitioned between methylene chloride and water. The organic layer is dried with Na2SO4 and passed through a short pad of hydrous magnesium silicate. Hexane is added to the filtrate while heating on a steam bath to give 2 g of crystals, m.p. 184°-185° C.

reactant | 10,11-dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 3.24 g | [N+](=O)([O-])C1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H17N3O4
reactant | hydrazine | 0.60 g | NN | H4N2
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
catalyst | Pd | 0.35 g | [Pd] | Pd
product | 10,11-Dihydro-10-(4-amino-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2 g | NC1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H19N3O2
